US06613775B1
Synthesis of ethyl 8-(2-Ethyl-6-methylbenzylamino)-3-methylimidazo[1,2-a]pyridin-2-carboxylate
To a stirred mixture of ethyl 8-amino-3-methylimidazo[1,2-a]pyridin-2-carboxylate (1.53 g, 7.0 mmol) in methanol (25 ml) were added 2-ethyl-6-methylbenzaldehyde (1.1 g, 7.1 mmol), zinc(II)chloride (1.1 g, 8.0 mmol) in methanol (10 ml) and sodium cyanoborohydride (0.5 g, 8.0 mmol). The reaction mixture was refluxed for 4 h. and then stirred at room temperature for 20 h. Triethylamine (2.5 ml) was added and the mixture was stirred for 30 min. and evaporated under reduced pressure. Purification of the residue by column chromatography twice on silica gel using 1) methylene chloride:methanol (95:5) 2) heptane:isopropyl ether (1:5) as eluent gave 0.2 g (8%) of the title compound.

reactant | ethyl 8-amino-3-methylimidazo[1,2-a]pyridin-2-carboxylate | 7.0 mmol, 1.53 g | NC=1C=2N(C=CC1)C(=C(N2)C(=O)OCC)C | C11H13N3O2
reactant | 2-ethyl-6-methylbenzaldehyde | 7.1 mmol, 1.1 g | C(C)C1=C(C=O)C(=CC=C1)C | C10H12O
reactant | sodium cyanoborohydride | 8.0 mmol, 0.5 g | C(#N)[BH3-].[Na+]
reactant | Triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | zinc(II)chloride | 8.0 mmol, 1.1 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 8-(2-Ethyl-6-methylbenzylamino)-3-methylimidazo[1,2-a]pyridin-2-carboxylate | 0.2 g, 8% | C(C)C1=C(CNC=2C=3N(C=CC2)C(=C(N3)C(=O)OCC)C)C(=CC=C1)C | C21H25N3O2
